US03951952
c. 3-Amidinopropionic Acid hydrochloride
A solution of 7.8 g. (0.047 mole) of β-carbomethoxypropionamidine hydrochloride in 217 ml. of 12N hydrochloric acid is heated at steam bath temperatures for 1 hour. The solution is cooled. evaporated in vacuo to dryness, and the residual product triturated several times with ethylene dichloride and filtered, 7.1 g. (99% yield), m.p. 138°-140° C. (McElvain, et al., J. Am. Chem. Soc., 71, 40 (1949) reports a melting point for crude product of 131°-137° C.).

reactant | β-carbomethoxypropionamidine hydrochloride | 0.047 mole | Cl.C(=O)(OC)CCC(=N)N
reactant | hydrochloric acid | 12N | Cl | ClH
product | 3-Amidinopropionic Acid hydrochloride | 99% yield | Cl.C(N)(=N)CCC(=O)O | InChI=1S/C4H8N2O2.ClH/c5-3(6)1-2-4(7)8;/h1-2H2,(H3,5,6)(H,7,8);1H
